US08557766B2
<Step 1> Synthesis of methyl 2-hydroxy-3-(m-tolyloxy)benzoate
According to the method of (Example 99) <Step 1>, from methyl 2,3-dihydroxybenzoate (1 g) and m-tolyl boronic acid (0.97 g) that are commercially available, the subject compound (0.56 g) was obtained as pale yellow oil.

reactant | methyl 2,3-dihydroxybenzoate | 1 g | OC1=C(C(=O)OC)C=CC=C1O | C8H8O4
reactant | m-tolyl boronic acid | 0.97 g | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
product | methyl 2-hydroxy-3-(m-tolyloxy)benzoate | 0.56 g | OC1=C(C(=O)OC)C=CC=C1OC=1C=C(C=CC1)C | C15H14O4
